US04404138
3-[2-(3-Azabicyclo[3.2.2]non-3-yl)ethyl]-1,2,3,4-tetrahydro-8,9-diethoxy-5H-[1]benzopyrano[3,4-c]pyridin-5-one
A mixture 3-[2-(3-azabicyclo-[3.2.2]non-3-yl)ethyl]-1,2,3,4-tetrahydro-8,9-dihydroxy-5H-[1]benzopyrano[3,4-c]pyridin-5-one dihydrobromide (11.5 g, 0.020 moles), potassium carbonate (15.0 g, 0.11 moles), and diethyl sulfate (10.4 g, 0.067 moles) in 2.5 l of acetone is stirred at reflux for 21 hours. Additional diethyl sulfate (59 g, 0.38 moles) is added, and the mixture is heated for an additional 30 hours. The cooled mixture is filtered, and the filter cake is digested twice in hot acetone (500 ml) and refiltered. The combined filtrates are evaporated, and the residue is distributed between dichloromethane (1500 ml) and water (750 ml). The organic layer is separated, washed four times with 2.5% aqueous sodium hydroxide (750 ml), dried over sodium sulfate, and evaporated. The crude product was recrystallized twice as the free base from acetonitrile to yield the final product (5.4 g), mp 132°-134° C.

reactant | 3-[2-(3-azabicyclo-[3.2.2]non-3-yl)ethyl]-1,2,3,4-tetrahydro-8,9-dihydroxy-5H-[1]benzopyrano[3,4-c]pyridin-5-one dihydrobromide | 0.020 moles, 11.5 g | Br.Br.C12CN(CC(CC1)CC2)CCN2CC1=C(CC2)C2=C(OC1=O)C=C(C(=C2)O)O
reactant | potassium carbonate | 0.11 moles, 15.0 g | C([O-])([O-])=O.[K+].[K+]
reactant | diethyl sulfate | 0.067 moles, 10.4 g | S(=O)(=O)(OCC)OCC | C4H10O4S
reactant | diethyl sulfate | 0.38 moles, 59 g | S(=O)(=O)(OCC)OCC | C4H10O4S
reactant | acetone | 2.5 l | CC(=O)C | C3H6O
product | 3-[2-(3-Azabicyclo[3.2.2]non-3-yl)ethyl]-1,2,3,4-tetrahydro-8,9-diethoxy-5H-[1]benzopyrano[3,4-c]pyridin-5-one | 5.4 g | C12CN(CC(CC1)CC2)CCN2CC1=C(CC2)C2=C(OC1=O)C=C(C(=C2)OCC)OCC | C26H36N2O4
